US07399759B2
2-Cyano-6-(4-pyridylthio)pyridine
4-Mercaptopyridine (0.88 g, 7.94 mmol) and sodium hydride (60% in oil, 0.35 g, 8.66 mmol) were dissolved in THF (30 ml), and the mixture was stirred at room temperature for 1 hr. A solution of 2-chloro-6-cyanopyridine (1.00 g, 7.22 mmol) in THF (10 ml) was added to the mixture, and the mixture was stirred at room temperature for 18 hrs. The mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (1.54 g, ca. 100%) as an oil.

reactant | 4-Mercaptopyridine | 7.94 mmol, 0.88 g | SC1=CC=NC=C1 | C5H5NS
reactant | sodium hydride | 8.66 mmol, 0.35 g | [H-].[Na+]
reactant | 2-chloro-6-cyanopyridine | 7.22 mmol, 1.00 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Cyano-6-(4-pyridylthio)pyridine | 1.54 g, ca. 100% | C(#N)C1=NC(=CC=C1)SC1=CC=NC=C1 | C11H7N3S
